US04562133
3-hydroxypropyl-3,5-dinitrobenzoate
A mixture of 30 g 3,5-dinitrobenzoic acid, 0.8 g p-toluenesulfonic acid and 100 ml 1,3-propanediol was stirred 9 hours at 110° C. After cooling, a white product crystallized and was separated from solution by filtration after adding a large quantity of water. The product was recrystallized from methanol to provide 77% white crystals with m.p. 76° C. IR: 1712 cm-1 (carbozyl) 1535 cm-1 (nitro asymmetric), 1341 cm-1 (nitro symmetric). 1H-NMR (DMSOd6): 9.05 ppm (C4), 8.93 ppm (C2, C6), 4.47 ppm (CH2OCO, triplet) 3.62 ppm (CH2O, triplet), 1.94 ppm (CH2 multiplet).

reactant | 3,5-dinitrobenzoic acid | 30 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | p-toluenesulfonic acid | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,3-propanediol | 100 ml | C(CCO)O | C3H8O2
product | 3-hydroxypropyl-3,5-dinitrobenzoate | 77% | OCCCOC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C10H10N2O7
